US08044069B2
1-(2-hydroxyethyl)-3,3-diphenylpyrrolidin-2-one
A mixture of 3,3-diphenyldihydrofuran-2(3H)-one (0.5 g, 2.098 mmol), 2-aminoethanol (1282 mg, 20.98 mmol) and zinc chloride (0.23 g, 1.679 mmol) was heated neat at 100° C. for 16 hours. The reaction mixture was cooled and partitioned in H2O/ethyl acetate. The organic layer was separated, dried over MgSO4, and concentrated to yield the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 7.32 (m, 8H), 7.23 (m, 2H), 3.81 (q, J=5.42 Hz, 2H), 3.52 (t, J=5.42 Hz, 2H), 3.45 (t, J=6.44 Hz, 2H), 2.85 (t, J=5.52 Hz, 1H), 2.79 (t, J=6.44 Hz, 2H); MS (ESI+) m/z 282 (M+H)+.

reactant | 3,3-diphenyldihydrofuran-2(3H)-one | 2.098 mmol, 0.5 g | C1(=CC=CC=C1)C1(C(OCC1)=O)C1=CC=CC=C1 | C16H14O2
reactant | 2-aminoethanol | 20.98 mmol, 1282 mg | NCCO | C2H7NO
catalyst | zinc chloride | 1.679 mmol, 0.23 g | [Cl-].[Zn+2].[Cl-]
product | 1-(2-hydroxyethyl)-3,3-diphenylpyrrolidin-2-one | OCCN1C(C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H19NO2
